US07728030B2
tert-Butyl[(1S)-2-(3-methoxyphenyl)-1-methyl-2-oxoethyl]carbamate (6d)
To a stirred solution of N2-(tert-butoxycarbonyl)-N-methoxy-N-methyl-L-alaninamide (777 mg, 3.3 mmol) in dry THF (50 ml) was added a solution of bromo(3-methoxyphenyl)magnesium (1M in THF, 10 ml, 10 mmol). The mixture was stirred at r.t. for 5 h, then quenched with saturated aqueous NH4Cl (50 ml). After stirring for 30 min, the layers were separated, the aqueous layer extracted with ethyl acetate (50 ml). The combined organic layers were dried with Na2SO4, and the solvent was removed in vacuo. The subtitle compound was isolated by flash chromatography on silica gel (n-heptane/ethyl acetate, gradient from 20 to 50% ethyl acetate). Yield 471 mg (94%).

reactant | N2-(tert-butoxycarbonyl)-N-methoxy-N-methyl-L-alaninamide | 3.3 mmol, 777 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N(C)OC | C10H20N2O4
reactant | bromo(3-methoxyphenyl)magnesium | 10 mmol, 1M, 10 ml | Br[Mg]C1=CC(=CC=C1)OC
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | tert-Butyl[(1S)-2-(3-methoxyphenyl)-1-methyl-2-oxoethyl]carbamate | C(C)(C)(C)OC(N[C@H](C(=O)C1=CC(=CC=C1)OC)C)=O | C15H21NO4
